### PR TITLE
[Merged by Bors] - feat: port GroupTheory.Coset

### PR DESCRIPTION
**Pull request by j-loreaux**
porting notes:

1. I had to add some really ugly type ascriptions so that whnf wouldn't time out. See [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/unification.20weaker.20in.20lean4/near/324140268)
2. I opted for `simp [mul_assoc]` since we don't have the `group` tactic yet.
3. The library note at the end of the file should be updated.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by gebner** [comment]
> This was because the simpNF linter complained, but it turns out that it was wrong.

As explained on zulip, the linter has a good reason to complain here.

File: Mathlib/GroupTheory/Coset.lean [hunk 1]
```diff
@@ -0,0 +1,899 @@
...
+  invFun a :=
+    ⟨Quotient.out' a.2.1 * a.1.1,
+      show QuotientGroup.mk _ ∈ t by
+        rw [mk_mul_of_mem _ a.1.2, out_eq']
+        exact a.2.2⟩
+  left_inv := fun ⟨a, ha⟩ => Subtype.eq <| show _ * _ = a by simp
+  right_inv := fun ⟨⟨a, ha⟩, ⟨x, hx⟩⟩ => by ext <;> simp [ha]
+#align quotient_group.preimage_mk_equiv_subgroup_times_set
+  QuotientGroup.preimageMkEquivSubgroupTimesSet
+#align quotient_add_group.preimage_mk_equiv_add_subgroup_times_set
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/Coset.lean:887]: I guess it's too late to rename this to `quotient_add_group.preimage_mk_equiv_add_subgroup_prod_set`

Comment (jcommelin) [reply Mathlib/GroupTheory/Coset.lean:887]: Why would it be too late?

Comment (eric-wieser) [reply Mathlib/GroupTheory/Coset.lean:887]: Too late to do so without having to forward port is I guess what I meant.

File: Mathlib/GroupTheory/Coset.lean [hunk 2]
```diff
@@ -0,0 +1,899 @@
...
+end QuotientGroup
+
+-- porting note: this library note may need to be updated, but I'm not sure how it should be
+-- rewritten exactly.
+library_note "use CoeTCₓ"/--
+We use the class `CoeTCₓ` instead of `Coe` if the first argument is a variable,
+or if the second argument is a variable not occurring in the first.
+Using `Coe` would cause looping of type-class inference. See
+<https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/remove.20all.20instances.20with.20variable.20domain>
+-/
```
Comment (gebner) [inline Mathlib/GroupTheory/Coset.lean:899]:
```suggestion
```
I looked at all the reference to this library note in mathlib3 and I believe none of them apply in Lean 4, except for the `Sign` coercion.  For that particular coercion please look at the `coercion into rings` library note.

As a general answer to "what coercion class should I use", please refer to this guide:
https://github.com/leanprover/lean4/blob/38a0d1e3733e2ba65ec2d980f7567c568adf2145/src/Init/Coe.lean#L75-L88

File: Mathlib/GroupTheory/Coset.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/GroupTheory/Coset.lean:887]: We can just rename that mathlib4 version and `#align` names.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 3]
```diff
@@ -161,7 +161,7 @@ theorem div_mem_comm_iff {a b : G} : a / b ∈ H ↔ b / a ∈ H := by
 #align div_mem_comm_iff div_mem_comm_iff
 #align sub_mem_comm_iff sub_mem_comm_iff
 
-@[to_additive /-(attr := simp)-/] -- porting note: `simp` cannot simplify LHS
+@[to_additive (attr := simp, nolint simpNF)] -- porting note: `simpNF` linter is wrong here.
```
Comment (urkud) [inline Mathlib/GroupTheory/Subgroup/Basic.lean]: I agree that it can be hard (for `simp`) to unify an expression with `P x⁻¹`.

File: Mathlib/GroupTheory/Coset.lean (hunk 1 above)
Comment (jcommelin) [reply Mathlib/GroupTheory/Coset.lean:887]: Ooh, you want to change the ml3 name? I don't see *any* value in that. But I do think we could rename the ml4 name right now.

File: Mathlib/GroupTheory/Coset.lean [hunk 4]
```diff
@@ -0,0 +1,891 @@
...
+@[to_additive "The natural bijection between the cosets `s + g` and `s`."]
+def rightCosetEquivSubgroup (g : α) : rightCoset (↑s) g ≃ s :=
+  ⟨fun x => ⟨x.1 * g⁻¹, (mem_rightCoset_iff _).1 x.2⟩, fun x => ⟨x.1 * g, x.1, x.2, rfl⟩,
+    fun ⟨x, hx⟩ => Subtype.eq <| by simp, fun ⟨g, hg⟩ => Subtype.eq <| by simp⟩
+#align subgroup.right_coset_equiv_subgroup Subgroup.rightCosetEquivSubgroup
+#align add_subgroup.right_coset_equiv_add_subgroup AddSubgroup.rightCosetEquivAddSubgroup
+
+/-- A (non-canonical) bijection between a group `α` and the product `(α/s) × s` -/
+@[to_additive "A (non-canonical) bijection between an add_group `α` and the product `(α/s) × s`"]
+noncomputable def groupEquivQuotientTimesSubgroup : α ≃ (α ⧸ s) × s :=
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coset.lean:609]:
```suggestion
noncomputable def groupEquivQuotientProdSubgroup : α ≃ (α ⧸ s) × s :=
```

File: Mathlib/GroupTheory/Coset.lean [hunk 5]
```diff
@@ -0,0 +1,891 @@
...
+          (_root_.Subtype fun x : α => Quotient.mk'' x = L) ≃
+            _root_.Subtype fun x : α => Quotient.mk'' x = Quotient.mk'' _
+        simp [-Quotient.eq'']
+        rfl
+    _ ≃ Σ _L : α ⧸ s, s := Equiv.sigmaCongrRight fun L => leftCosetEquivSubgroup _
+    _ ≃ (α ⧸ s) × s := Equiv.sigmaEquivProd _ _
+
+#align subgroup.group_equiv_quotient_times_subgroup Subgroup.groupEquivQuotientTimesSubgroup
+#align add_subgroup.add_group_equiv_quotient_times_add_subgroup
+  AddSubgroup.addGroupEquivQuotientTimesAddSubgroup
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coset.lean:625]:
```suggestion
#align subgroup.group_equiv_quotient_times_subgroup Subgroup.groupEquivQuotientProdSubgroup
#align add_subgroup.add_group_equiv_quotient_times_add_subgroup
  AddSubgroup.addGroupEquivQuotientProdAddSubgroup
```

File: Mathlib/GroupTheory/Coset.lean [hunk 6]
```diff
@@ -0,0 +1,891 @@
...
+namespace QuotientGroup
+
+variable [Group α]
+
+/-- If `s` is a subgroup of the group `α`, and `t` is a subset of `α ⧸ s`, then there is a
+(typically non-canonical) bijection between the preimage of `t` in `α` and the product `s × t`. -/
+@[to_additive "If `s` is a subgroup of the additive group `α`, and `t` is a subset of `α ⧸ s`, then
+ there is a (typically non-canonical) bijection between the preimage of `t` in `α` and the product
+ `s × t`."]
+noncomputable def preimageMkEquivSubgroupTimesSet (s : Subgroup α) (t : Set (α ⧸ s)) :
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coset.lean:871]:
```suggestion
noncomputable def preimageMkEquivSubgroupProdSet (s : Subgroup α) (t : Set (α ⧸ s)) :
```

File: Mathlib/GroupTheory/Coset.lean [hunk 7]
```diff
@@ -0,0 +1,891 @@
...
+    ⟨Quotient.out' a.2.1 * a.1.1,
+      show QuotientGroup.mk _ ∈ t by
+        rw [mk_mul_of_mem _ a.1.2, out_eq']
+        exact a.2.2⟩
+  left_inv := fun ⟨a, ha⟩ => Subtype.eq <| show _ * _ = a by simp
+  right_inv := fun ⟨⟨a, ha⟩, ⟨x, hx⟩⟩ => by ext <;> simp [ha]
+#align quotient_group.preimage_mk_equiv_subgroup_times_set
+  QuotientGroup.preimageMkEquivSubgroupTimesSet
+#align quotient_add_group.preimage_mk_equiv_add_subgroup_times_set
+  QuotientAddGroup.preimageMkEquivAddSubgroupTimesSet
```
Comment (jcommelin) [inline Mathlib/GroupTheory/Coset.lean:888]:
```suggestion
#align quotient_group.preimage_mk_equiv_subgroup_times_set QuotientGroup.preimageMkEquivSubgroupProdSet
#align quotient_add_group.preimage_mk_equiv_add_subgroup_times_set QuotientAddGroup.preimageMkEquivAddSubgroupProdSet
```

**Comment by ChrisHughes24** [comment]
bors merge
